US04808597
N-n-Propyl-4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzamide
A 15 ml aliquot of the chloroform solution of the mixed anhydride of 4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzoic acid from Preparation 13 was added to a solution of 0.1 g (1.71 mmole) of n-propylamine in ca. 25 ml of chloroform at 0° C. The reaction mixture was filtered and then it was extracted twice with 1N hydrochloric acid. The resulting chloroform solution was dried (MgSO4) and evaporated in vacuo to give an oily solid. This solid was dissolved in diethyl ether and 2N sodium hydroxide. The layers were separated and the ether layer was filtered, dried (MgSO4) and evaporated in vacuo. The residue was recrystallized from diethyl ether-hexane, to give 0.127 g of the title compound, mp 138°-139° C.

reactant | 4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzoic acid | CC1(CCOC2=CC=C(C=C12)/C(=C/C1=CC=C(C(=O)O)C=C1)/C)C | C21H22O3
reactant | n-propylamine | 1.71 mmole, 0.1 g | C(CC)N | C3H9N
solvent | chloroform | ca. 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | N-n-Propyl-4-[(E)-2-(4,4-dimethyl-6-chromanyl)-2-methylvinyl]benzamide | 0.127 g | C(CC)NC(C1=CC=C(C=C1)\C=C(/C)\C=1C=C2C(CCOC2=CC1)(C)C)=O | C24H29NO2
